Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization ___ DES to 90% LAD, DES to 90% ramus 

 
History of Present Illness:
Mr. ___ is a ___ gentleman with hyperlipidemia who 
presented to the ED with chest pain while walking to work 
yesterday evening. The pain radiated down his left arm and was 
associated with diaphoresis. The pain improved with rest but 
came back at work a few more times. He reported no shortness of 
breath, nausea, or vomiting.

In the ED, the patient was found to have elevated troponin with 
TWI in V2-V6. He was given aspirin and atorvastatin 80 mg and 
started on heparin drip. He was taken to the cath lab where he 
was found to have a 90% LAD lesion and 90% ramus lesion, for 
which he received DES to each. He had a 60% distal RCA lesion 
that was not intervened on. He received a ticagrelor load in the 
lab.

On the floor, patient recounts story as above. States he's doing 
well without chest pain.  

REVIEW OF SYSTEMS: On review of systems, denies any prior 
history of stroke, TIA, deep venous thrombosis, pulmonary 
embolism, bleeding at the time of surgery, myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. Denies 
recent fevers, chills or rigors. Denies exertional buttock or 
calf pain. All of the other review of systems were negative.  

Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.  

 
Past Medical History:
Hyperlipidemia
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION PHYSICAL
VS: 97.8 ___ 18 97%RA
GENERAL: WDWN M in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple without JVD 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  R wrist dressed, 
without hematoma + pulses
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  Distal pulses palpable and symmetric

DISCHARGE EXAM
Vitals: 97.5 ___ 64-70 18 99RA
Tele: NSR in ___
GENERAL: WDWN M in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple without JVD 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  R wrist dressed, 
without hematoma + pulses
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  Distal pulses palpable and symmetric
 
Pertinent Results:
ADMISSION LABS
___ 03:05AM BLOOD WBC-5.4 RBC-4.54* Hgb-14.3 Hct-42.2 
MCV-93 MCH-31.5 MCHC-33.9 RDW-12.8 RDWSD-43.8 Plt ___
___ 03:05AM BLOOD Neuts-72.0* Lymphs-14.8* Monos-10.0 
Eos-2.4 Baso-0.6 Im ___ AbsNeut-3.90 AbsLymp-0.80* 
AbsMono-0.54 AbsEos-0.13 AbsBaso-0.03
___ 03:05AM BLOOD ___
___ 03:05AM BLOOD Glucose-106* UreaN-37* Creat-1.3* Na-139 
K-4.4 Cl-106 HCO3-17* AnGap-20
___ 03:05AM BLOOD CK(CPK)-179
___ 07:35AM BLOOD Calcium-9.4 Phos-3.0 Mg-2.1

CARDIAC ENZYME TREND 
___ 03:05AM BLOOD CK-MB-6
___ 03:05AM BLOOD cTropnT-0.04*
___ 08:50AM BLOOD CK-MB-10 MB Indx-5.9 cTropnT-0.21*
___ 05:15PM BLOOD cTropnT-0.33*
___ 12:04AM BLOOD CK-MB-45* MB Indx-12.6* cTropnT-0.47*
___ 07:35AM BLOOD CK-MB-64* MB Indx-13.6* cTropnT-0.61*
___ 01:15PM BLOOD CK-MB-50* MB Indx-11.2* cTropnT-0.63*
___ 07:38PM BLOOD CK-MB-33* MB Indx-9.3* cTropnT-0.59*
___ 07:40AM BLOOD CK-MB-14* MB Indx-7.0* cTropnT-0.65*

DISCHARGE LABS
___ 07:40AM BLOOD WBC-6.4 RBC-4.84 Hgb-15.3 Hct-44.1 MCV-91 
MCH-31.6 MCHC-34.7 RDW-13.0 RDWSD-42.9 Plt ___
___ 07:40AM BLOOD Glucose-90 UreaN-21* Creat-1.2 Na-139 
K-4.3 Cl-106 HCO3-21* AnGap-16
___ 07:40AM BLOOD Calcium-9.6 Phos-3.0 Mg-2.1

REPORTS 

C. CATH ___
Coronary Anatomy
Dominance: Right
Coronary angiography:
Right dominant
LM: No disease. Trifurcates.
LAD: ___ irregularities. Mid vessel 90% stenosis at small D2.
Ramus: Moderate sized vessel with focal 90% proximal stenosis.
LCx: No significant disease.
RCA: No significant disease.

Interventional Details
After discussion with the patient, we proceeded with PCI fo the 
LAD and Ramus lesions.
UFH anticoagulation.
The LM was engaged with an XB3.5 guide. The LAD was wired with a 
Runthrough wire. Angioplasty
followed by placement of a 3.0 x 18 Xience DES. Post-dilated 
with 3.5 and 3.75 NC balloons at high
pressure.
TIMI III flow, 0% residual.
We turned our attention to the Ramus. We placed a 2.25 x 12 mm 
Xience DES. Post-dilated with a 2.5
NC balloon at > 20 atms.
TIMI III flow, 10% residual in test.
Impressions:
Successful PCI of the LAD and Ramus lesions with Xience DES (1 
stent in each

TTE ___
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. There is 
mild regional left ventricular systolic dysfunction c/w CAD in 
the mid LAD distribution. Quantitative (3D) LVEF = 48 %. Doppler 
parameters are most consistent with Grade I (mild) left 
ventricular diastolic dysfunction. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Trivial mitral regurgitation is seen. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

 IMPRESSION: Mild regional let ventricular systolic dysfunction 
c/w CAD in the mid LAD distribution.  
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with hyperlipidemia who 
presented to the ED with chest pain while walking to work the 
evening of ___. The pain radiated down his left arm and was 
associated with diaphoresis. The pain improved with rest but 
came back at work a few more times. He reported no shortness of 
breath, nausea, or vomiting.

In the ED, the patient was found to have elevated troponin with 
TWI in V2-V6. He was given aspirin and atorvastatin 80 mg and 
started on heparin drip. He was taken to the cath lab where he 
was found to have a 90% LAD lesion and 90% ramus lesion, for 
which he received DES to each. He had a 60% distal RCA lesion 
that was not intervened on. Troponin peaked at 0.65. Echo showed 
EF 48% and mild regional let ventricular systolic dysfunction 
c/w CAD in the mid LAD distribution. He had apical akinesis so 
he was initiated on warfarin for clot prevention. He was 
discharged on aspirin, ticagrelor, atorvastatin, and metoprolol 
XL 

Transitional Issues:
===================
- new medications: aspirin 81 mg daily, ticagrelor 60 mg BID, 
atorvastatin 80 mg, metoprolol succinate 12.5 mg daily, warfarin 
5 mg 
- patient with apical akinesis so was intiated on warfarin, 
first dose ___ recommend TTE in next ___ weeks to monitor for 
resolution of myocardial dyskinesis.
- aspirin and ticagrelor cannot be discontinued unless 
determined safe by cardiologist
- patient would likely benefit from cardiac rehab
- patient complaining of black stools, rectal exam was guaiac 
negative, H/H stable, would recommend follow-up to ensure 
resolution
- patient counseled to discuss with cardiologist as to when he 
can return to lifting items > 10 lbs 
- please have INR checked on ___.
- Contact: ___ ___ home
- Full code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*15 Tablet Refills:*0
4. TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [BRILINTA] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
5. Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 1 mg 5 tablet(s) by mouth daily Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
NSTEMI 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ with chest pain. Your EKG and blood 
tests showed that you had a heart attack. 

WHAT WAS DONE
==============
- You had a cardiac catheterization that showed a blockage in 
the heart. A stent was placed to open up the blockage.
- You had an ultrasound of the heart that showed some decreased 
pump function.
- You were started on warfarin, a blood thinner, to prevent clot 
formation 

WHAT TO DO NEXT
===============
- Please take all your medicines as prescribed. 
- You are starting on two new medicines called aspirin and 
ticagrelor.  You CANNOT miss ___ dose of these medicines. No one 
but your cardiologist can tell you to stop these medicines. 
- Follow up with your PCP and your new cardiologist Dr. ___. 
If you wish to follow up at ___ you may schedule at 
___.
- Call your doctor if you experience chest pain, shortness of 
breath, or feelings of fainting

Wishing you the best of health moving forward,
Your ___ team
 
Followup Instructions:
___